Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion - "brain fogginess"
 
Major Surgical or Invasive Procedure:
Lumbar puncture ___
 
History of Present Illness:
The patient is a ___ man with history of depression who 
presented with a six-month history of cognitive slowing and 
memory loss.  History obtained from patient and mother.

For comprehensive details about the patient's long-standing 
cognitive issues over the past 6 months, please see prior 
documentation by both the PCP and neurology visit  on ___.

To summarize, the patient was in his usual state of health until 
approximately 6 months ago.  At that time, he developed 
intermittent sensation of "brain fog" and periods when he would 
be more forgetful than usual.  Initially, this sensation was 
intermittent, however it has been present all of the time for 
the
last ___ months.  He reports an associated sense of 
"dissociation," and describes a feeling of "being drunk all the 
time, without feeling pleasantly drunk."  He denies any 
olfactory or gustatory hallucinations.  Denies any headache 
throughout this time.  Denies any fever or infectious symptoms.

The symptoms continued and became gradually more severe over the 
last several months.  It reached a point where he was unable to 
maintain his job approximately 1 month ago and had to leave his 
job.  He worked in ___, and had difficulty "processing 
information" in meetings and remembering tasks for the day.  He 
also reports intermittent slurred speech, without any other 
evidence of weakness.  Over the last month, he has been 
minimally engaged and spends the majority of the day sleeping.  
His mother
notes that he spends the majority of the day locked in his 
bedroom.  He spends the majority of the day sleeping and does 
not have the drive to do daily tasks.

Approximately 1 week ago, the patient developed severe neck pain 
that appeared to occur out of the blue.  Denies any preceding 
trauma or neck manipulation.  Denied any associated headache, 
but he has had persistent photophobia for the last several 
months. The patient and his mother contacted his primary care 
physician for further guidance, but had difficulty getting in 
touch with the office staff.  They did not seek medical 
attention.  His neck pain resolved over a few hours, and he was 
able to proceed about his weekend.

The patient presents to emergency department now after his 
mother was concerned that he had minimal recollection of his 
prior neck pain.

I interviewed the patient without his mother present privately. 
He reported he had no further information to share.  He denied 
depressed mood, apart from "being anxious about everything that 
is going on.". Denied alcohol and illicit drug use.  Denies any 
recent stressors. Reported he felt safe at home. Denied suicidal 
or homicidal ideation.

Of note, the patient's sleep schedule typically consists of 
going to bed at 12 AM and sleeping until noon the following day.

For workup and evaluation of the symptoms, the patient has had 
an extensive toxic metabolic workup that has been negative, 
including CBC, BMP, LFTs, vitamin B12, and RPR, among others.  
He has been evaluated by a BI Neurologist about 1 month ago, Dr. 
___ felt that symptoms were likely due to depression 
and recommended psychiatric evaluation.  The patient was 
subsequently
seen by his psychiatrist and primary care physician, who 
questioned whether there was an organic cause for these symptoms 
and did not attribute the symptoms to depression.

 
Past Medical History:
Depression, previously tried bupropion and escitalopram.
 
Social History:
___
Family History:
Denies family history of epilepsy or neurologic
disorders.  His brother is ___ years old with bipolar disorder.

 
Physical Exam:
Admission examination: 

Physical Exam:
Vitals: 90 7.3F, heart rate 75, blood pressure 118/72,
respiratory rate 18, O2 99% on room air

General: Awake, cooperative, NAD.  Pale-appearing
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

Mental Status: 
Awake, alert, oriented to self, place, time and situation.  
Makes poor eye contact with examiner.  Throughout most of the 
interview, he is flat affect, but at the conclusion of the 
interview became tearful without being able to articulate why.  
Able to relate history without difficulty. Attentive, able
to name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes (he was able to get the final word with category cue). 
The pt had good knowledge of current events. There was no
evidence of apraxia or neglect.

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch, proprioception throughout.
No extinction to DSS.

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge examination: 

Vitals (last 24 hours):
Temperature: Afebrile 
Blood pressure: 94/58 - 113/63
Pulse: 45 - 66 
RR: 16 - 20 
Oxygen saturation: 97 -99%

General physical examination:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination: 
Mental status: 
Alert and oriented to name, time, and place.  Comprehends 
questions and is able to fully hold communication with no 
difficulty, but has slowed flat speech. Can repeat months of 
years backwards, but slowed.  Remembers ___ items at five 
minutes, another ___ with category, and the last ___ with 
multiple choice. Patient with no difficulties with repetition 
and no difficulty naming objects.  Patient does not appear 
overtly depressed.  

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
No deficits to light touch, proprioception throughout.
No extinction to DSS.

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 04:45AM BLOOD WBC-6.7 RBC-4.25* Hgb-13.2* Hct-38.2* 
MCV-90 MCH-31.1 MCHC-34.6 RDW-11.9 RDWSD-38.3 Plt ___
___ 04:45AM BLOOD Glucose-95 UreaN-13 Creat-0.8 Na-143 
K-3.4 Cl-104 HCO3-23 AnGap-19
___ 04:45AM BLOOD Calcium-9.4 Phos-5.1* Mg-2.0
___ 10:27AM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-9* Polys-0 
___ ___ 10:27AM CEREBROSPINAL FLUID (CSF) TotProt-21 Glucose-65
 
Brief Hospital Course:
Patient was admitted from the emergency department on ___ 
because of chief complaint of brain fogginess with reduced 
ability to complete tasks.  Patient had basic laboratory studies 
which were un revealing and had mri brain, continuous eeg, and 
lumbar puncture which were also un revealing.  Based on our 
examination we feel that he has difficulty with attention and 
motivation and that he might benefit from evaluation with 
behavioral neurology.  Patient has upcoming appointment.  
Patient had prescription written for sertraline to determine if 
this would be of benefit before his scheduled appointment, but 
per mother it is uncertain if he will take medication.  Patient 
denied suicidal ideation.   
 
Medications on Admission:
None 
 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY Inattention/lack of motivation 
Please take one pill once daily.  
RX *sertraline 25 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abulia 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
During this hospitalization, we did a full neurologic 
examination including blood work, electroencephalogram, lumbar 
puncture, and imaging tests and all studies were negative.  We 
believe that you have issues with attention and motivation, but 
it is uncertain what is causing this to occur.  We believe your 
symptoms have both components in the realm of psychiatry and 
neurology and have therefore scheduled for you an appointment 
with behavioral neurology.

For the mucous cyst we have put in a referral for you to be see 
otolaryngology with Dr. ___ his office will contact you 
when the appointment is upcoming. 

Thank you for allowing us to care for you
___ neurology
 
Followup Instructions:
___